US04640915
A solution of N,N-diisopropyl-N-ethylamine (0.0386 ml) in methylene chloride (0.347 ml) was added to a solution of 4-nitrobenzyl (2R,5R,6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate (100 mg) and 4-(N,N-dimethylamino)pyridine (2.3 mg) in methylene chloride (5 ml) at -30° C. A solution of trifluoromethanesulfonic anhydride (0.0326 ml) in methylene chloride (0.293 ml) was then added thereto at -30° C. After the mixture was stirred at the same temperature for an hour, a solution of N,N-diisopropyl-N-ethylamine (0.129 ml) in methylene chloride (1.16 ml) and a solution of 1-methyl-1H-tetrazole-5-thiol (42.9 mg) in methylene chloride (2.15 ml) were added successively at -30° C. The mixture was stirred at -30° C. for 30 minutes and allowed to warm to ambient temperature over a period of 30 minutes. After stirring at ambient temperature for 2 hours, the mixture was allowed to stand at 4° C. for 2 days. After removal of the solvent, the residue was dissolved in ethyl acetate. The solution was washed three times with water and an aqueous sodium chloride, dried over magnesium sulfate and then evaporated in vacuo. The residue was chromatographed on deactivated silica gel with 10% water (2 g), eluting with a mixture of benzene and acetone (50:1 to 10:1) to give 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(1-methyl-1H-tetrazol-5-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (89 mg) as an oil.

reactant | N,N-diisopropyl-N-ethylamine | 0.0386 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrobenzyl (2R,5R,6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate | 100 mg | O=C1[C@@H](N2C([C@H]([C@H]2C1)C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H23N3O11
reactant | trifluoromethanesulfonic anhydride | 0.0326 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N,N-diisopropyl-N-ethylamine | 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-1H-tetrazole-5-thiol | 42.9 mg | CN1N=NN=C1S | C2H4N4S
solvent | methylene chloride | 0.347 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 2.3 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.293 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.16 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.15 ml | C(Cl)Cl | CH2Cl2
product | 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(1-methyl-1H-tetrazol-5-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 89 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC1=NN=NN1C | C27H25N7O10S
